US06617330B2
(3-Propyl-2-propoxy-3H-thieno[2,3-d]pyrimidine-4-ylidene)methylamine
In a sulfonation flask 4.5 g (0.018 mol) 3-propyl-2-propoxy-3H-thieno[2,3-d]pyrimidine-4-ylidene amine, 5.1 g (0.036 mol) CH3I, 5.0 g (0.036 mol) powdered potassium carbonate and 80 ml of absolute DMF are stirred for 4 hours at an internal temperature of 90-100° C. Then the solvent is distilled off in vacuum, the residue taken up in ethylacetate and the organic phase twice washed with water. After drying the organic phase over Na2SO4 the ethylacetate is distilled off in a water jet vacuum and the residue purified by column chromatography over silica gel (eluant: hexane/ethylacetate 1:6). Yield: 4.4 g of (3-propyl-2-propoxy-3H-thieno[2,3-d]pyrimidine-4-ylidene)methylamine in the form of a brown oil.

reactant | 3-propyl-2-propoxy-3H-thieno[2,3-d]pyrimidine-4-ylidene amine | 0.018 mol, 4.5 g | C(CC)N1C(=NC2=C(C1=N)C=CS2)OCCC | C12H17N3OS
reactant | CH3I | 0.036 mol, 5.1 g | CI | CH3I
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 80 ml | CN(C)C=O | C3H7NO
product | (3-Propyl-2-propoxy-3H-thieno[2,3-d]pyrimidine-4-ylidene)methylamine | C(CC)N1C(=NC2=C(C1=CN)C=CS2)OCCC | C13H19N3OS
